simulator lang=spectre
global 0

ahdl_include "./dut/trim_ctrl_4bit.va"

Vain (ain 0) vsource type=pwl wave=[0 0 1n 0 1.05n 3 2n 3 2.05n 6 3n 6 3.05n 11 4n 11 4.05n 14 5n 14]
XDUT (ain dout0 dout1 dout2 dout3) trim_ctrl_4bit

tran tran stop=5n maxstep=10p
save ain dout0 dout1 dout2 dout3
